US09056844B2
Preparation 12: Di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-azido-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate
Sodium azide (8.29 g, 127.45 mmol) is added to di-tert-butyl (1S,2R,3S,4R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-[(methylsulfonyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate (16.99 g, 25.49 mmol) and 15-crown-5 (508.57 μL, 561.46 mg, 2.55 mmol) in dimethylformamide (254.90 mL, 240.96 g, 3.30 moles) at 85° C. and stirred. After 7 days, the reaction is cooled to room temperature then diluted with water and extracted with ethyl acetate (3×). The combined organics are washed with water, brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure giving a residue. The residue is purified by flash chromatography eluting 2-60% ethyl acetate in hexanes to yield the title compound (11.2 g, 18.3 mmol, 72%). MS (m/z): 635/637 (M+1).

reactant | Sodium azide | 127.45 mmol, 8.29 g | [N-]=[N+]=[N-].[Na+]
reactant | di-tert-butyl (1S,2R,3S,4R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-[(methylsulfonyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 25.49 mmol, 16.99 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@H]([C@H]1OCC1=CC(=C(C=C1)Cl)Cl)OS(=O)(=O)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C29H41Cl2NO10S
reactant | 15-crown-5 | 2.55 mmol, 508.57 μL, 561.46 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | dimethylformamide | 3.30 moles, 254.90 mL, 240.96 g | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-azido-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 18.3 mmol, 11.2 g, 72% | N(=[N+]=[N-])[C@@H]1[C@H]([C@]([C@@H]2[C@H]([C@H]12)C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)OCC1=CC(=C(C=C1)Cl)Cl | C28H38Cl2N4O7
